US07732461B2
(b) Methyl[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]acetate
A mixture of dimethyl[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]propanedioate (52 g, 169 mmol), lithium chloride (14.5 g, 340 mmol) and water (3.43 ml, 190 mmol) in DMSO (1175 ml) was heated at 100° C. for 24 hours and cooled. The solution was shaken with water and ethyl acetate, separated and the organic phase washed twice with water. The total aqueous was re-extracted with ethyl acetate and this water-washed. The combined organic phase was dried and evaporated and the residue chromatographed, using a hexane/ethyl acetate gradient, to give the desired product containing about 10% of starting material (35.79 g).

reactant | dimethyl[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]propanedioate | 169 mmol, 52 g | COC(C(C(=O)OC)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C14H13FN2O5
reactant | lithium chloride | 340 mmol, 14.5 g | [Cl-].[Li+]
reactant | water | 190 mmol, 3.43 ml | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 1175 ml | CS(=O)C | C2H6OS
product | Methyl[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]acetate | COC(CC1=C(C=NC2=CC=C(N=C12)OC)F)=O | C12H11FN2O3
